US08871756B2
4-[4-(1,4-Diazepan-1-yl)-6-methylquinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide
The title compound was prepared in analogy to Example 3-1 1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1,4-diazepine. MS obsd. (ESI+) [(M+H)+] 437, 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (d, J=7.2 Hz, 1 H), 7.86 (d, J=7.2 Hz, 1 H), 7.81 (d, J=8.8 Hz, 1 H), 7.72-7.68 (m, 2 H), 7.58-7.51 (m, 2 H), 6.31 (s, 1 H), 5.32 (s, 2 H), 4.54 (s, 2 H), 4.06-4.04 (m, 2 H), 3.90-3.87 (m, 2 H), 3.72 (s, 2 H), 3.63-3.61 (m, 2 H), 3.46-3.42 (m, 2 H), 2.45 (s, 3 H), 2.32 (s, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1,4-diazepine | N1C=CN=CC=C1 | C5H6N2
product | 4-[4-(1,4-Diazepan-1-yl)-6-methylquinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | N1(CCNCCC1)C1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C24H28N4O2S
